US07183273B2
AMD8765: Preparation of N-(2-pyridinylmethyl)-N′-(carboxymethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (hydrobromide salt)
To a solution of N-(t-butoxycarbonyl)-N-(2-pyridinylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (230 mg, 0.50 mmol) and t-butyl bromoacetate (0.15 mL, 1.02 mmol) in CH3CN (8 mL) was added powdered potassium carbonate (220 mg, 1.60 mmol) and the mixture was stirred for 16 hours. The crude material was purified by column chromatography on silica gel (CH2Cl2/MeOH, 98:2 to 95:5) to give the desired product (160 mg, 56%) as a yellow oil.

reactant | N-(t-butoxycarbonyl)-N-(2-pyridinylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.50 mmol, 230 mg | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)CNC1CCCC=2C=CC=NC12)CC1=NC=CC=C1 | C28H34N4O2
reactant | t-butyl bromoacetate | 1.02 mmol, 0.15 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 1.60 mmol, 220 mg | C([O-])([O-])=O.[K+].[K+]
reactant | CH3CN | 8 mL | CC#N | C2H3N
product | N-(2-pyridinylmethyl)-N′-(carboxymethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 160 mg, 56% | N1=C(C=CC=C1)CNCC1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CC(=O)O | C25H28N4O2
